US06147098
N-Cyano-N'-cyclopentyl-N"-(3-methyloxy-5-trifluoromethylphenyl)guanidine
To a solution of N-Cyano-N'-(3-methoxy-5-trifluoromethyl-phenyl)-O-phenylisourea (0.52 mmol, 175 mg) in dry acetonitrile (1 ml), cyclopentylamine (1.04 mmol, 0.113 ml) and triethylamine (0.080 ml) were added. The mixture was stirred for 19 h at 75° C. under nitrogen. After concentration the residue was dissolved in dichloromethane, washed with 1 N aqueous HCl (2×), water, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (ethyl acetate/heptane 1:2) to give a syrup. Crystallisation from ethyl acetate/heptane 1:4 gave grey crystals (110 mg, 65%). Mp 101-102° C.; 1H-NMR (CDCl3): δ 1.40 (m, 2H), 1.65 (m, 4H), 2.02 (m, 2H), 4.13 (sextet, 1H), 5.05 (br, 1H), 6.96 (s, 1H), 7.00 (s, 1H), 7.03 (s, 1H), 8.15 ppm (br, 1H); EI SP/MS: 326 (M+).

reactant | N-Cyano-N'-(3-methoxy-5-trifluoromethyl-phenyl)-O-phenylisourea | 0.52 mmol, 175 mg | C(#N)NC(OC1=CC=CC=C1)=NC1=CC(=CC(=C1)C(F)(F)F)OC | C16H12F3N3O2
reactant | cyclopentylamine | 1.04 mmol, 0.113 ml | C1(CCCC1)N | C5H11N
reactant | triethylamine | 0.080 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-Cyano-N'-cyclopentyl-N"-(3-methyloxy-5-trifluoromethylphenyl)guanidine | 110 mg, 65% | C(#N)NC(=NC1=CC(=CC(=C1)C(F)(F)F)OC)NC1CCCC1 | C15H17F3N4O
